US04265812
Preparation of N-(2-Fluorosulfonylethyl)-N-ethyl-m-acetamidoaniline
N-ethyl-m-acetamidoaniline (178.0 g, 1.0 m is dissolved in isopropyl alcohol (450 ml) and vinylsulfonylfluoride (110 g, 1.0 m) is added dropwise allowing temperature to rise to 40° C. The reaction is stirred for 2.5 hrs., the product collected by filtration, washed with cold ethanol and air dried.

reactant | N-ethyl-m-acetamidoaniline | C(C)NC1=CC(=CC=C1)NC(C)=O | C10H14N2O
reactant | vinylsulfonylfluoride | 110 g | C(=C)S(=O)(=O)F | C2H3FO2S
solvent | isopropyl alcohol | 450 ml | C(C)(C)O | C3H8O
product | N-(2-Fluorosulfonylethyl)-N-ethyl-m-acetamidoaniline | FS(=O)(=O)CCN(C1=CC(=CC=C1)NC(C)=O)CC | C12H17FN2O3S
